*** SPICE deck for cell ring_counter{sch} from library ring_counter
*** Created on Sat Nov 08, 2025 21:34:36
*** Last revised on Tue Nov 11, 2025 21:53:49
*** Written on Tue Nov 11, 2025 21:54:18 by Electric VLSI Design System, version 9.08
*** Layout tech: mocmos, foundry MOSIS
*** UC SPICE *** , MIN_RESIST 4.0, MIN_CAPAC 0.1FF

*** SUBCIRCUIT ring_counter__and2_1x FROM CELL and2_1x{sch}
.SUBCKT ring_counter__and2_1x a b y
** GLOBAL gnd
** GLOBAL vdd
Mnmos@0 net@2 b net@1 gnd N_50n L=0.6U W=1.8U
Mnmos@1 net@1 a gnd gnd N_50n L=0.6U W=1.8U
Mnmos@2 y net@2 gnd gnd N_50n L=0.6U W=2.1U
Mpmos@0 vdd b net@2 vdd P_50n L=0.6U W=1.8U
Mpmos@1 vdd a net@2 vdd P_50n L=0.6U W=1.8U
Mpmos@2 vdd net@2 y vdd P_50n L=0.6U W=3U
.ENDS ring_counter__and2_1x

*** SUBCIRCUIT ring_counter__inv_1x FROM CELL inv_1x{sch}
.SUBCKT ring_counter__inv_1x a y
** GLOBAL gnd
** GLOBAL vdd
Mnmos@0 y a gnd gnd N_50n L=0.6U W=2.1U
Mpmos@0 vdd a y vdd P_50n L=0.6U W=3U
.ENDS ring_counter__inv_1x

*** SUBCIRCUIT ring_counter__nor3_1x FROM CELL nor3_1x{sch}
.SUBCKT ring_counter__nor3_1x a b c y
** GLOBAL gnd
** GLOBAL vdd
Mnmos@0 y a gnd gnd N_50n L=0.6U W=2.7U
Mnmos@1 y b gnd gnd N_50n L=0.6U W=2.7U
Mnmos@2 y c gnd gnd N_50n L=0.6U W=2.7U
Mpmos@0 vdd a net@7 vdd P_50n L=0.6U W=6.3U
Mpmos@1 net@7 b net@13 vdd P_50n L=0.6U W=6.3U
Mpmos@2 net@13 c y vdd P_50n L=0.6U W=6.3U
.ENDS ring_counter__nor3_1x

*** SUBCIRCUIT ring_counter__d_type_ff_ms_bw FROM CELL d_type_ff_ms_bw{sch}
.SUBCKT ring_counter__d_type_ff_ms_bw Clk D Q Q- R S
** GLOBAL gnd
** GLOBAL vdd
Xand2_1x@0 net@8 net@13 net@87 ring_counter__and2_1x
Xand2_1x@1 D net@8 net@89 ring_counter__and2_1x
Xand2_1x@2 net@31 net@19 net@144 ring_counter__and2_1x
Xand2_1x@3 net@25 net@31 net@105 ring_counter__and2_1x
Xinv_1x@0 Clk net@8 ring_counter__inv_1x
Xinv_1x@1 D net@13 ring_counter__inv_1x
Xinv_1x@2 net@8 net@31 ring_counter__inv_1x
Xnor3_1x@0 S net@89 net@19 net@25 ring_counter__nor3_1x
Xnor3_1x@1 net@25 net@87 R net@19 ring_counter__nor3_1x
Xnor3_1x@2 R net@105 Q- Q ring_counter__nor3_1x
Xnor3_1x@3 Q net@144 S Q- ring_counter__nor3_1x
.ENDS ring_counter__d_type_ff_ms_bw

*** SUBCIRCUIT ring_counter__xor2_1x FROM CELL xor2_1x{sch}
.SUBCKT ring_counter__xor2_1x a b y
** GLOBAL gnd
** GLOBAL vdd
Mnmos@0 net@3 a gnd gnd N_50n L=0.6U W=4.2U
Mnmos@1 net@4 ab gnd gnd N_50n L=0.6U W=4.2U
Mnmos@2 y b net@3 gnd N_50n L=0.6U W=4.2U
Mnmos@3 y bb net@4 gnd N_50n L=0.6U W=4.2U
Mnmos@4 bb b gnd gnd N_50n L=0.6U W=1.8U
Mnmos@5 ab a gnd gnd N_50n L=0.6U W=1.8U
Mpmos@0 net@7 b y vdd P_50n L=0.6U W=6U
Mpmos@1 vdd ab net@7 vdd P_50n L=0.6U W=6U
Mpmos@2 net@8 bb y vdd P_50n L=0.6U W=6U
Mpmos@3 vdd a net@8 vdd P_50n L=0.6U W=6U
Mpmos@4 vdd b bb vdd P_50n L=0.6U W=2.7U
Mpmos@5 vdd a ab vdd P_50n L=0.6U W=2.7U
.ENDS ring_counter__xor2_1x

.global gnd vdd

*** TOP LEVEL CELL: ring_counter{sch}
Xd_type_f@12 Phase_Count net@560 net@102 d_type_f@12_Q- Clear gnd ring_counter__d_type_ff_ms_bw
Xd_type_f@13 Phase_Count net@102 net@50 d_type_f@13_Q- Clear gnd ring_counter__d_type_ff_ms_bw
Xd_type_f@14 Phase_Count net@50 net@59 d_type_f@14_Q- Clear gnd ring_counter__d_type_ff_ms_bw
Xd_type_f@15 Phase_Count net@59 net@103 net@560 Clear gnd ring_counter__d_type_ff_ms_bw
Xxor2_1x@0 net@103 net@102 Phase1 ring_counter__xor2_1x
Xxor2_1x@1 net@102 net@50 Phase2 ring_counter__xor2_1x
Xxor2_1x@2 net@50 net@59 Phase3 ring_counter__xor2_1x
Xxor2_1x@3 net@59 net@103 Phase4 ring_counter__xor2_1x

* Spice Code nodes in cell cell 'ring_counter{sch}'
Vdd vdd 0 1.0
Vgnd gnd 0 0
Vclock Phase_Count gnd PULSE(0 1 0 1n 1n 50n 100n)
Vclear Clear gnd PULSE(0 1 0 1n 1n 10n 500n)
.tran 1n 2000n
.PROBE TRAN V(net@102) V(net@50) V(net@59) V(net@103) V(phase_count)
.include cmosedu_models.txt
.END