*** SPICE deck for cell test_inverters{sch} from library Lab4
*** Created on Fri Oct 10, 2025 21:46:13
*** Last revised on Fri Oct 10, 2025 22:02:18
*** Written on Fri Oct 10, 2025 22:02:26 by Electric VLSI Design System, version 9.08
*** Layout tech: mocmos, foundry MOSIS
*** UC SPICE *** , MIN_RESIST 4.0, MIN_CAPAC 0.1FF

*** SUBCIRCUIT Lab4__Inverter_1 FROM CELL Inverter_1{sch}
.SUBCKT Lab4__Inverter_1 in out
** GLOBAL gnd
** GLOBAL vdd
Mnmos@0 out in gnd gnd NMOS L=1.8U W=1.8U
Mpmos@1 out in vdd vdd PMOS L=1.8U W=3.6U
.ENDS Lab4__Inverter_1

*** SUBCIRCUIT Lab4__Inverter_2 FROM CELL Inverter_2{sch}
.SUBCKT Lab4__Inverter_2 in out
** GLOBAL gnd
** GLOBAL vdd
Mnmos@0 out in gnd gnd NMOS L=1.8U W=7.2U
Mpmos@0 out in vdd vdd PMOS L=1.8U W=14.4U
.ENDS Lab4__Inverter_2

.global gnd vdd

*** TOP LEVEL CELL: test_inverters{sch}
XInverter@0 vin vout1 Lab4__Inverter_1
XInverter@1 vin vout2 Lab4__Inverter_2
vdd vdd 0 DC 5
vin vin 0 DC 0
.dc vin 0 5 1m
.include C5_models.txt
.END
