*** SPICE deck for cell test_inverters_load{sch} from library Lab4
*** Created on Fri Oct 10, 2025 21:46:22
*** Last revised on Fri Oct 10, 2025 22:16:11
*** Written on Fri Oct 10, 2025 22:16:52 by Electric VLSI Design System, version 9.08
*** Layout tech: mocmos, foundry MOSIS
*** UC SPICE *** , MIN_RESIST 4.0, MIN_CAPAC 0.1FF

*** SUBCIRCUIT Lab4__Inverter_1 FROM CELL Inverter_1{sch}
.SUBCKT Lab4__Inverter_1 in out
** GLOBAL gnd
** GLOBAL vdd
Mnmos@0 out in gnd gnd NMOS L=1.8U W=1.8U
Mpmos@1 out in vdd vdd PMOS L=1.8U W=3.6U
.ENDS Lab4__Inverter_1

*** SUBCIRCUIT Lab4__Inverter_2 FROM CELL Inverter_2{sch}
.SUBCKT Lab4__Inverter_2 in out
** GLOBAL gnd
** GLOBAL vdd
Mnmos@0 out in gnd gnd NMOS L=1.8U W=7.2U
Mpmos@0 out in vdd vdd PMOS L=1.8U W=14.4U
.ENDS Lab4__Inverter_2

.global gnd vdd

*** TOP LEVEL CELL: test_inverters_load{sch}
Ccap@0 gnd vout1 {x}
Ccap@1 gnd vout2 {x}
XInverter@0 vin vout1 Lab4__Inverter_1
XInverter@1 vin vout2 Lab4__Inverter_2
vdd vdd 0 DC 5
vin vin 0 pulse(0v 5v 5n 1n 1n 12n 25n)
.step param x list 1f 10f 100f
.trans 0 25n 0 100p
.include C5_models.txt
.END
