*** SPICE deck for cell Charge_Pump_sim{sch} from library Lab6
*** Created on Fri Oct 31, 2025 11:20:05
*** Last revised on Fri Oct 31, 2025 11:23:21
*** Written on Fri Oct 31, 2025 11:23:54 by Electric VLSI Design System, version 9.08
*** Layout tech: mocmos, foundry MOSIS
*** UC SPICE *** , MIN_RESIST 4.0, MIN_CAPAC 0.1FF

*** SUBCIRCUIT Lab6__Charge_Pump FROM CELL Charge_Pump{sch}
.SUBCKT Lab6__Charge_Pump osc osc2 vout
** GLOBAL gnd
** GLOBAL vdd
Ccap@0 cap@0_b osc 100u
Ccap@1 osc2 net@21 100u
Ccap@2 osc net@37 100u
Ccap@3 gnd vout 100u
Mnmos@0 osc vdd vdd gnd N_50n L=0.3U W=3U
Mnmos@1 net@21 net@24 osc gnd N_50n L=0.3U W=3U
Mnmos@2 net@37 net@21 net@21 gnd N_50n L=0.3U W=3U
Mnmos@3 vout net@37 net@37 gnd N_50n L=0.3U W=3U
Rres@1 vout gnd 2MEG
.ENDS Lab6__Charge_Pump

.global gnd vdd

*** TOP LEVEL CELL: Charge_Pump_sim{sch}
XCharge_P@0 osc osc2 vout Lab6__Charge_Pump

vdd vdd 0 dc 1v
Vosc osc 0 PULSE(0 1 0 1p 1p 25m 50m)
Vosc2 osc2 0 PULSE(0 1 25m 1p 1p 25m 50m)
.tran 0 1000 1m
.include cmosedu_models.txt
.END
