*** SPICE deck for cell sim{sch} from library Lab6
*** Created on Sat Nov 01, 2025 12:09:52
*** Last revised on Thu Nov 06, 2025 01:25:10
*** Written on Thu Nov 06, 2025 01:26:01 by Electric VLSI Design System, version 9.08
*** Layout tech: mocmos, foundry MOSIS
*** UC SPICE *** , MIN_RESIST 4.0, MIN_CAPAC 0.1FF

*** SUBCIRCUIT Lab6__5_Stage_Charge_Pump FROM CELL 5_Stage_Charge_Pump{sch}
.SUBCKT Lab6__5_Stage_Charge_Pump osc osc2 vout
** GLOBAL gnd
** GLOBAL vdd
Ccap@0 cap@0_b osc 100u
Ccap@1 osc2 net@3 100u
Ccap@2 osc net@20 100u
Ccap@3 gnd vout 100u
Ccap@4 osc2 net@40 100u
Ccap@5 osc net@45 100u
Mnmos@0 osc vdd vdd gnd N_50n L=0.3U W=3U
Mnmos@1 net@3 net@5 osc gnd N_50n L=0.3U W=3U
Mnmos@2 net@20 net@3 net@3 gnd N_50n L=0.3U W=3U
Mnmos@3 net@40 net@20 net@20 gnd N_50n L=0.3U W=3U
Mnmos@4 net@45 net@40 net@40 gnd N_50n L=0.3U W=3U
Mnmos@5 vout net@45 net@45 gnd N_50n L=0.3U W=3U
Rres@0 vout gnd 2MEG
.ENDS Lab6__5_Stage_Charge_Pump

*** SUBCIRCUIT Lab6__Regulation FROM CELL Regulation{sch}
.SUBCKT Lab6__Regulation En Vout
** GLOBAL gnd
** GLOBAL vdd
Mnmos@0 net@1 net@0 gnd gnd N_50n L=0.3U W=3U
Mnmos@1 net@0 net@20 gnd gnd N_50n L=0.3U W=3U
Mnmos@2 En net@43 gnd gnd N_50n L=0.3U W=3U
Mpmos@0 net@1 net@0 vdd vdd P_50n L=0.3U W=6U
Mpmos@1 net@0 gnd vdd vdd P_50n L=12U W=6U
Mpmos@2 net@0 net@1 vdd vdd P_50n L=12U W=6U
Mpmos@3 En net@43 vdd vdd P_50n L=0.3U W=6U
Rres@0 net@20 Vout 3MEG
Rres@1 vdd net@20 20MEG
.ENDS Lab6__Regulation

*** SUBCIRCUIT Lab6__Ring_Oscillator FROM CELL Ring_Oscillator{sch}
.SUBCKT Lab6__Ring_Oscillator En osc osc2
** GLOBAL gnd
** GLOBAL vdd
Ccap@0 gnd net@19 10u
Ccap@1 gnd net@33 10u
Ccap@2 gnd net@48 10u
Mnmos@0 net@6 osc net@7 gnd N_50n L=0.3U W=3U
Mnmos@1 net@7 En gnd gnd N_50n L=0.3U W=3U
Mnmos@2 net@33 net@19 gnd gnd N_50n L=0.3U W=3U
Mnmos@3 net@48 net@33 gnd gnd N_50n L=0.3U W=3U
Mnmos@4 osc2 net@48 gnd gnd N_50n L=0.3U W=3U
Mnmos@5 osc osc2 gnd gnd N_50n L=0.3U W=3U
Mpmos@0 net@19 En vdd vdd P_50n L=0.3U W=6U
Mpmos@1 net@6 osc vdd vdd P_50n L=0.3U W=6U
Mpmos@2 net@33 net@19 vdd vdd P_50n L=0.3U W=6U
Mpmos@3 net@48 net@33 vdd vdd P_50n L=0.3U W=6U
Mpmos@4 osc2 net@48 vdd vdd P_50n L=0.3U W=6U
Mpmos@5 osc osc2 pmos@5_s vdd P_50n L=0.3U W=6U
.ENDS Lab6__Ring_Oscillator

.global gnd vdd

*** TOP LEVEL CELL: sim{sch}
X_5_Stage_@0 net@9 net@12 vout Lab6__5_Stage_Charge_Pump
XRegulati@1 ven vout Lab6__Regulation
XRing_Osc@0 en net@9 net@12 Lab6__Ring_Oscillator

vdd vdd 0 dc 1V
VEn en 0 dc 1V
.tran 0 200 10m
.include cmosedu_models.txt
.END
