*** SPICE deck for cell sim{sch} from library Lab6
*** Created on Sat Nov 01, 2025 12:09:52
*** Last revised on Sat Nov 01, 2025 13:01:33
*** Written on Sat Nov 01, 2025 13:02:03 by Electric VLSI Design System, version 9.08
*** Layout tech: mocmos, foundry MOSIS
*** UC SPICE *** , MIN_RESIST 4.0, MIN_CAPAC 0.1FF

*** SUBCIRCUIT Lab6__Regulation FROM CELL Regulation{sch}
.SUBCKT Lab6__Regulation En Vout
** GLOBAL gnd
** GLOBAL vdd
Mnmos@0 net@1 net@0 gnd gnd N_50n L=0.3U W=3U
Mnmos@1 net@0 net@20 gnd gnd N_50n L=0.3U W=3U
Mnmos@2 En net@43 gnd gnd N_50n L=0.3U W=3U
Mpmos@0 net@1 net@0 vdd vdd P_50n L=0.3U W=6U
Mpmos@1 net@0 gnd vdd vdd P_50n L=12U W=6U
Mpmos@2 net@0 net@1 vdd vdd P_50n L=12U W=6U
Mpmos@3 En net@43 vdd vdd P_50n L=0.3U W=6U
Rres@0 net@20 Vout 3MEG
Rres@1 vdd net@20 20MEG
.ENDS Lab6__Regulation

.global gnd vdd

*** TOP LEVEL CELL: sim{sch}
XRegulati@0 en vout Lab6__Regulation


vdd vdd 0 DC 1V
vout vout 0 SIN(1.5 1.5 50)
.tran 0 1
.include cmosedu_models.txt
.END
