*** SPICE deck for cell sim{sch} from library Lab6
*** Created on Sat Nov 01, 2025 12:09:52
*** Last revised on Sat Nov 01, 2025 12:12:10
*** Written on Sat Nov 01, 2025 12:12:16 by Electric VLSI Design System, version 9.08
*** Layout tech: mocmos, foundry MOSIS
*** UC SPICE *** , MIN_RESIST 4.0, MIN_CAPAC 0.1FF

*** SUBCIRCUIT Lab6__Ring_Oscillator FROM CELL Ring_Oscillator{sch}
.SUBCKT Lab6__Ring_Oscillator En osc osc2
** GLOBAL gnd
** GLOBAL vdd
Ccap@0 gnd net@19 10u
Ccap@1 gnd net@33 10u
Ccap@2 gnd net@48 10u
Mnmos@0 net@6 osc net@7 gnd N_50n L=0.3U W=3U
Mnmos@1 net@7 En gnd gnd N_50n L=0.3U W=3U
Mnmos@2 net@33 net@19 gnd gnd N_50n L=0.3U W=3U
Mnmos@3 net@48 net@33 gnd gnd N_50n L=0.3U W=3U
Mnmos@4 osc2 net@48 gnd gnd N_50n L=0.3U W=3U
Mnmos@5 osc osc2 gnd gnd N_50n L=0.3U W=3U
Mpmos@0 net@19 En vdd vdd P_50n L=0.3U W=6U
Mpmos@1 net@6 osc vdd vdd P_50n L=0.3U W=6U
Mpmos@2 net@33 net@19 vdd vdd P_50n L=0.3U W=6U
Mpmos@3 net@48 net@33 vdd vdd P_50n L=0.3U W=6U
Mpmos@4 osc2 net@48 vdd vdd P_50n L=0.3U W=6U
Mpmos@5 osc osc2 pmos@5_s vdd P_50n L=0.3U W=6U
.ENDS Lab6__Ring_Oscillator

.global gnd vdd

*** TOP LEVEL CELL: sim{sch}
XRing_Osc@0 En osc osc2 Lab6__Ring_Oscillator
vdd vdd 0 dc 1V
VEn En 0 dc 1V
.tran 0 10
.include cmosedu_models.txt

.END
