*** SPICE deck for cell simulations{sch} from library Lab5
*** Created on Fri Oct 17, 2025 11:01:45
*** Last revised on Fri Oct 24, 2025 21:19:56
*** Written on Fri Oct 24, 2025 21:23:53 by Electric VLSI Design System, version 9.08
*** Layout tech: mocmos, foundry MOSIS
*** UC SPICE *** , MIN_RESIST 4.0, MIN_CAPAC 0.1FF

*** SUBCIRCUIT Lab5__NAND_2 FROM CELL NAND_2{sch}
.SUBCKT Lab5__NAND_2 A B Y
** GLOBAL gnd
** GLOBAL vdd
Mnmos@0 Y A net@1 gnd NMOS L=0.6U W=1.8U
Mnmos@1 net@1 B nmos@1_s gnd NMOS L=0.6U W=1.8U
Mpmos@0 Y B vdd vdd PMOS L=0.6U W=1.8U
Mpmos@1 Y A vdd vdd PMOS L=0.6U W=1.8U
.ENDS Lab5__NAND_2

.global gnd vdd

*** TOP LEVEL CELL: simulations{sch}
XNAND_2@0 d_in vdd nand_d_out Lab5__NAND_2
vdd vdd 0 dc 5
vin d_in 0 pulse(0v 5v 10n 1n 1n 40n 40n)
.tran 0 40n

.include C5_models.txt

.END
