*** SPICE deck for cell simulations{sch} from library Lab5
*** Created on Fri Oct 17, 2025 11:01:45
*** Last revised on Fri Oct 24, 2025 23:53:47
*** Written on Fri Oct 24, 2025 23:54:08 by Electric VLSI Design System, version 9.08
*** Layout tech: mocmos, foundry MOSIS
*** UC SPICE *** , MIN_RESIST 4.0, MIN_CAPAC 0.1FF

*** SUBCIRCUIT Lab5__NOT FROM CELL NOT{sch}
.SUBCKT Lab5__NOT A Y
** GLOBAL gnd
** GLOBAL vdd
Mnmos@0 Y A gnd gnd NMOS L=0.6U W=1.8U
Mpmos@0 Y A vdd vdd PMOS L=0.6U W=1.8U
.ENDS Lab5__NOT

.global gnd vdd

*** TOP LEVEL CELL: simulations{sch}
XNOT@0 d_in not_d_out Lab5__NOT

vdd vdd 0 dc 5
vin d_in 0 pulse(0v 5v 10n 1n 1n 40n 40n)
.tran 0 40n
.include C5_models.txt
.END
