*** SPICE deck for cell simulations{sch} from library Lab5
*** Created on Fri Oct 17, 2025 11:01:45
*** Last revised on Fri Oct 24, 2025 23:57:46
*** Written on Fri Oct 24, 2025 23:58:11 by Electric VLSI Design System, version 9.08
*** Layout tech: mocmos, foundry MOSIS
*** UC SPICE *** , MIN_RESIST 4.0, MIN_CAPAC 0.1FF

*** SUBCIRCUIT Lab5__XOR_2 FROM CELL XOR_2{sch}
.SUBCKT Lab5__XOR_2 A B Y
** GLOBAL gnd
** GLOBAL vdd
Mnmos@0 notA_out A gnd gnd NMOS L=0.6U W=1.8U
Mnmos@1 notB_out B gnd gnd NMOS L=0.6U W=1.8U
Mnmos@2 Y notB_out net@57 gnd NMOS L=0.6U W=1.8U
Mnmos@3 net@57 notA_out gnd gnd NMOS L=0.6U W=1.8U
Mnmos@4 Y A net@57 gnd NMOS L=0.6U W=1.8U
Mnmos@5 net@57 B gnd gnd NMOS L=0.6U W=1.8U
Mpmos@0 notA_out A vdd vdd PMOS L=0.6U W=1.8U
Mpmos@1 notB_out B vdd vdd PMOS L=0.6U W=1.8U
Mpmos@2 net@31 B net@25 vdd PMOS L=0.6U W=1.8U
Mpmos@3 Y notA_out net@31 vdd PMOS L=0.6U W=1.8U
Mpmos@4 net@30 A net@25 vdd PMOS L=0.6U W=1.8U
Mpmos@5 Y notB_out net@30 vdd PMOS L=0.6U W=1.8U
.ENDS Lab5__XOR_2



.global gnd vdd

*** TOP LEVEL CELL: simulations{sch}
XXOR_2@1 d_in vdd xor_d_out Lab5__XOR_2

vdd vdd 0 dc 5
vin d_in 0 pulse(0v 5v 10n 1n 1n 40n 40n)
.tran 0 40n
.include C5_models.txt
.END
