*** SPICE deck for cell simulations{sch} from library Lab5
*** Created on Fri Oct 17, 2025 11:01:45
*** Last revised on Sat Oct 25, 2025 00:10:46
*** Written on Sat Oct 25, 2025 00:11:04 by Electric VLSI Design System, version 9.08
*** Layout tech: mocmos, foundry MOSIS
*** UC SPICE *** , MIN_RESIST 4.0, MIN_CAPAC 0.1FF

*** SUBCIRCUIT Lab5__full_adder FROM CELL full_adder{sch}
.SUBCKT Lab5__full_adder A B cin cout S
.ENDS Lab5__full_adder

*** TOP LEVEL CELL: simulations{sch}
Xfull_add@0 A B cin cout S Lab5__full_adder
vdd vdd 0 dc 5
va a 0 pulse(0v 5v 10n 1n 1n 10n 20n)
vb b 0 pulse(0v 5v 10n 1n 1n 10n 20n)
vcin cin 0 pulse(0v 5v 2n 1n 1n 10n 20n)
.tran 0 60n
.include C5_models.txt

.END
